US07214796B2
Triethylamine (1.04 g, 10.3 mmol) and 4-dimethyl aminopyridine (104 mg, 0.854 mmol) were added to a solution of 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine (2.00 g, 8.54 mmol) in tetrahydrofuran (THF) (30 mL) in an ice bath, and the solutes were dissolved by stirring. Methanesulfonyl chloride (1.37 g, 12.0 mmol) was added dropwise to the solution in the ice bath over a period of 5 minutes with stirring, and the mixture was stirred for 1 hour in an ice bath. After the completion of the reaction, the insoluble content was removed by filtration, and the thus removed insoluble content was washed with THF (10 mL×2). The filtrate and the washing solution were combined and concentrated under reduced pressure to such degree that substantially no solvent was left. The concentrate was diluted with DMF (20 mL). To the solution was added 2-mercaptobenzimidazole (1.41 g, 9.39 mmol), potassium carbonate (1.77 g, 12.8 mmol), and 18-crown-6 (226 mg, 0.854 mmol), and the mixture was stirred at 80° C. for 3 hours. The reaction solution was concentrated under reduced pressure, and the resulting concentrate was diluted and separated with ethyl acetate (10 mL) and water (50 mL). The aqueous layer was further extracted with ethyl acetate (10 mL×2), and the extract was combined with the organic layer, washed with saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. It was then purified by silica gel column chromatography (chloroform/methanol saturated with ammonia=40/1) to give 1-[2-(benzimidazol-2-ylthio)ethyl]-4-tert-butoxycarbonyl piperazine 2.02 g (64%) as colorless powdery crystals.

reactant | Triethylamine | 10.3 mmol, 1.04 g | C(C)N(CC)CC | C6H15N
reactant | 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine | 8.54 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | Methanesulfonyl chloride | 12.0 mmol, 1.37 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-mercaptobenzimidazole | 9.39 mmol, 1.41 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | potassium carbonate | 12.8 mmol, 1.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.854 mmol, 226 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-[2-(benzimidazol-2-ylthio)ethyl]-4-tert-butoxycarbonyl piperazine | 2.02 g, 64% | N1=C(NC2=C1C=CC=C2)SCCN2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O2S
